US09302991B2
<Step-8>:(R)—N-(1-(5-(hydroxymethyl)-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 57% yield (0.11 g, colorless oil) from (5-acetyl-2-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl acetate (0.16 g, 0.55 mmol, Step-7) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | (5-acetyl-2-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl acetate | 0.55 mmol, 0.16 g | C(C)(=O)OCC=1C(=NC=C(C1)C(C)=O)OCC(F)(F)F | C12H12F3NO4
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(5-(hydroxymethyl)-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 57% yield | OCC=1C=C(C=NC1OCC(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C14H21F3N2O3S
